US06936602B1
To a solution of t-butyl 4-propylaminobutyrate (14.2 g, 70.7 mmol) in DMF (20 ml) were added 5-bromo-2-fluorobenzaldehyde (14.4 g, 70.9 mmol) and potassium carbonate (14.7 g, 106 mmol) at room temperature, and the mixture was stirred at 80° C. for 94 hours. The mixture was diluted with ethyl acetate, washed with water and saturated brine, and dried with anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified with silica gel column chromatography (hexane:ethyl acetate=10:1) to give yellow oil of t-but yl 4-(4-bromo-2-formylphenyl)propylaminobutyrate (14.2 g, 52%).

reactant | t-butyl 4-propylaminobutyrate | 70.7 mmol, 14.2 g | C(CC)NCCCC(=O)OC(C)(C)C | C11H23NO2
reactant | 5-bromo-2-fluorobenzaldehyde | 70.9 mmol, 14.4 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | potassium carbonate | 106 mmol, 14.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | t-but yl 4-(4-bromo-2-formylphenyl)propylaminobutyrate | 14.2 g, 52% | BrC1=CC(=C(C=C1)CCCNCCCC(=O)OC(C)(C)C)C=O | C18H26BrNO3
